US05043348
1-(2-Acetylaminoethyl)-pyrrole-3-aldehyde
8.5 g (0.053 mol) of 2,5-dimethoxytetrahydrofuran-3-aldehyde and 5.4 g (0.053 mol) of 2-(acetylamino)-ethylamine are stirred at 60° C. for 1 hour. After addition of 0.05 g of p-toluenesulphonic acid hydrate, the mixture is stirred at 80° C. for 90 minutes and cooled, sodium bicarbonate solution is added and the mixture is extracted with methylene chloride and then with pentanol. The organic phases are concentrated and chromatographed over a silica gel column with methylene chloride/methanol =95:5 as the mobile phase. The product isolated is crystallized from ethyl acetate/ligroin.

reactant | 2,5-dimethoxytetrahydrofuran-3-aldehyde | 0.053 mol, 8.5 g | COC1OC(CC1C=O)OC | C7H12O4
reactant | 2-(acetylamino)-ethylamine | 0.053 mol, 5.4 g | C(C)(=O)NCCN | C4H10N2O
reactant | p-toluenesulphonic acid hydrate | 0.05 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 1-(2-Acetylaminoethyl)-pyrrole-3-aldehyde | C(C)(=O)NCCN1C=C(C=C1)C=O | C9H12N2O2
